US06949553B2
A THF (20 ml) solution of the (5R)-5-[(tert-butyldimethylsilyloxy)methyl]pyrrolidin-2-one (5.73 g, 25 mmols) was added dropwise, during cooling with ice, to a THF (100 ml) suspension of NaH (60% oil disp. 1.20 g, 30 mmols), whereafter the mixture was stirred for 30 minutes at room temperature. To the mixture, MeI (7.8 ml, 125 mmols) was added during cooling with ice, and the mixture was stirred for 15 hours at room temperature. During cooling with ice, a saturated aqueous solution (50 ml) of NH4Cl was added, and the solvent was distilled off under reduced pressure. The residue was diluted with water, whereafter the dilution was extracted with AcOEt (50 ml×3), and the organic layer was dried over MgSO4. The solvent was distilled off under reduced pressure, and then the residue was subjected to silica gel column chromatography (SiO2 250 g, MeOH—CHCl3 3:97 v/v) to obtain (5R)-5-[(tert-butyldimethylsilyloxy)methyl]-1-methylpyrrolidin-2-one (6.00 g, 98.8%).

reactant | (5R)-5-[(tert-butyldimethylsilyloxy)methyl]pyrrolidin-2-one | 25 mmols, 5.73 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CCC(N1)=O | C11H23NO2Si
reactant | NaH | 30 mmols, 1.20 g | [H-].[Na+]
reactant | MeI | 125 mmols, 7.8 ml | CI | CH3I
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (5R)-5-[(tert-butyldimethylsilyloxy)methyl]-1-methylpyrrolidin-2-one | 6.00 g, 98.8% | [Si](C)(C)(C(C)(C)C)OC[C@H]1CCC(N1C)=O | C12H25NO2Si
